* ============================================================
* Injector turn-off / recirculation -- ECU pins 73/07/29 (low side)
* Closes the gap injector_boost.cir's RESULT NOTE names.
* ============================================================
* injector_boost.cir proved turn-ON only and said so plainly:
* interrupting 18 A in 200 uH releases about 32 mJ per event with
* nowhere defined for it to go. Research memo 10
* (docs/research/10-injector-turnoff.md) surveyed what real
* peak-and-hold injector drivers do about that and recommended a
* specific circuit, not a generic one: a low-side switch per
* channel with a recirculation diode from the injector's low side
* back into the EXISTING 100 V / 47 uF boost reservoir
* (boost_converter.cir's Ca/Bchga). Not a Zener-across-the-FET
* active clamp (memo section 1.1: Nexperia AN50003 flags repetitive
* active clamp as reliability-"Questionable", gate-oxide wear-out).
* Not a bare freewheel-to-battery diode (too slow, same problem the
* boost rail was built to fix on the opening side). This is that
* circuit.
*
* THE SECOND DIODE THIS NETLIST ADDS THAT THE MEMO DOES NOT NAME:
* D_fw, gnd -> hi. The memo's recommendation names one new diode
* (low side -> boost cap). But with the injector's high side wired
* to the boost rail through a switch (Shs, the bank-shared high
* side memo 04 already verified), opening BOTH switches at turn-off
* leaves node "hi" with no path for the inductor's current at all --
* exactly the ngrun.py trap: "voltage-controlled switches have NO
* body diode ... if an inductor's current has no path during a dead
* time it gets reset through the off-state resistance and the
* simulation quietly produces nonsense." A real FET does not have
* this problem in the direction that matters here either -- Shs's
* own body diode sits across rail/hi, the wrong pair of nodes to
* supply "hi" from ground. What actually closes this loop is the
* SAME external diode Infineon's TLE8242-2 already requires for
* hold-phase constant-current chopping (memo section 1.2, quoted
* directly: "An external recirculation diode is required in
* [constant current mode] configuration otherwise the IC may be
* damaged"). That diode normally does the hold-phase job; at full
* turn-off (both switches open, not just the high side chopping)
* it is what lets current flow from ground back into "hi" so the
* low-side recirculation diode's current has somewhere to come
* from. It is modelled here as standard supporting infrastructure,
* not the novel part this block exists to justify -- D_recirc is.
*
* Without D_fw, node "hi" is a dead end when Shs opens and this
* would hit the exact ngrun.py failure mode. Tried it first without
* D_fw to confirm: the inductor current is forced through Shs's
* 1e9 ohm off-state resistance instead of decaying physically, and
* v(hi) and the reported turn-off time are meaningless. That
* failure is not reproduced here -- D_fw is left in from the start
* -- but the reasoning for why it is required is recorded because
* it is not obvious from the memo's prose alone.
*
* Same injector model as injector_boost.cir: L = 200 uH, R = 0.5
* ohm, peak threshold 18 A. Same boost reservoir as
* boost_converter.cir: 47 uF, 100 V setpoint, Bchg charges at 50 mA
* only while below setpoint (copied verbatim -- this is the exact
* mechanism claim 3 below tests for a missing bleed path).
*
* Three events (pilot/main/post) are run back to back, all assumed
* to reach the full 18 A peak before cutoff -- research memo 10
* section 4 argues this is the design figure to use, not a
* conservative upper bound to discount, because the boost ramp
* (~38 us) is well under even a short pilot pulse's minimum width.
* Spacing (300 us) is not a sourced pilot/main/post interval -- none
* was found (memo 10's own negative-results list) -- it is chosen
* only to be comfortably longer than one event's ~35 us turn-off, so
* each event's recirculation finishes before the next begins and the
* rail bumps are visible as separate steps.
* ============================================================

.model NSW  SW(Ron=20m Roff=1e9 Vt=2.5 Vh=0.2)
* Ultrafast recirculation diode, rated for the boost-rail voltage
* and the 18 A peak -- the part class research memo 10 names,
* matching TLE8242-2's generic "recirculation diode (ultrafast)"
* callout even though that IC itself is the wrong current/voltage
* class for this injector. BV=150 gives margin above the 100 V
* rail, the same margin logic transient_clamp used for its TVS.
.model DREC D(Is=2e-11 N=1.3 Rs=40m BV=150 IBV=1e-3)

* ---- gate: pilot, main, post -- each ON 38 us (the injector_boost
* ramp time to 18 A at 100 V), then OFF ----
Vg  g 0 PWL(
+ 0      5
+ 38u    5
+ 38.01u 0
+ 300u   0
+ 300.01u 5
+ 338u   5
+ 338.01u 0
+ 600u   0
+ 600.01u 5
+ 638u   5
+ 638.01u 0
+ 30m    0)

* ---- boost reservoir, identical mechanism to boost_converter.cir ----
Crail rail 0 47u ic=100
Bchg  0 rail I = v(rail) < 100 ? 50m : 0

* ---- high side: bank-shared switch to the boost rail, plus its
* freewheel diode (see header) ----
Shs     rail hi  g 0 NSW
Vamm_fw hi   fwn 0
Dfw     0    fwn DREC

* ---- injector coil, ammeter in series so its current is directly
* readable through both the ramp and the decay ----
Vamm_i hi  hin 0
L1     hin lm  200u
R1     lm  lo  0.5

* ---- low side: independent per-channel switch ----
Sls lo 0 g 0 NSW

* ---- the recirculation diode this block exists to add ----
Vamm_rc lo  rcn 0
Drc     rcn rail DREC

* ---- comparison only, NOT this design: freewheel straight to the
* 13.5 V battery, starting already at 18 A (ic=18) so only the
* turn-off physics is compared, not the much slower battery ramp
* injector_boost.cir already measured (439 us). This is memo 10's
* baseline row -- the option ruled out for being too slow. ----
Vbatb  batb 0 DC 13.5
Vammb  batb xb 0
Lcb    xb   cb 200u ic=18
Rcb    cb   db 0.5
Dcb    db   batb DREC

* ---- claim 3, the sensitivity that actually matters: what THIS
* block's own 3-event circuit above cannot show. That circuit always
* recirculates the SAME current it just drew from the boost rail, so
* -- see the RESULT NOTE -- a lossless version of it would cancel
* EXACTLY (a symmetric linear ramp up and down against the same
* clamp voltage draws and returns identical charge) and any real
* loss only makes recovery net LESS than the draw. It cannot
* overshoot. But boost_converter.cir's own arrangement A has the
* BOOST rail supply the peak phase only -- hold current comes from
* the BATTERY. If end-of-injection recirculation is wired the same
* way for every channel regardless of which rail was last driving
* the coil (one shared low-side switch and diode per channel, not
* two), then a cutoff during HOLD sends battery-sourced current
* into the BOOST cap with no boost-side draw to net against. That
* is an uncompensated addition, not a near-cancellation. This
* circuit starts a second, separate 47 uF/100 V reservoir already
* at 100 V with a coil already carrying boost_converter.cir's own
* 10 A hold-current figure (ic=10, no preceding ramp) and lets it
* recirculate through the same diode pair, to measure that addition
* directly. ----
Crailh railh 0 47u ic=100
Bchgh  0 railh I = v(railh) < 100 ? 50m : 0
Dfwh     0    fwnh DREC
Vamm_fwh fwnh hih   0
Vamm_ih  hih  hmh   0
Lh       hmh  lmh   200u ic=10
Rh       lmh  loh   0.5
Vamm_rch loh  rch   0
Drch     rch  railh DREC

.control
tran 200n 30m uic
wrdata injector_turnoff.dat v(rail) i(Vamm_i) i(Vamm_rc) i(Vamm_fw) v(lo) i(Vammb) v(railh) i(Vamm_ih)
.endc

.end

* ------------------------------------------------------------
* RESULT NOTE -- read the back-to-back rail number before the
* single-event numbers, it is the one that changes another block
* ------------------------------------------------------------
* Single event (pilot, the first of the three): turn-off from 18 A
* clamped to the boost rail takes about 34 us -- close to memo 10's
* ~36 us hand-derived figure (Delta t = L*Delta I / V_clamp), a
* little faster because that formula ignores the two diode drops
* and the coil's own resistance, which effectively raise the clamp
* voltage above the bare 100 V rail. Against the comparison
* circuit's freewheel-to-battery baseline the difference is large
* and in the direction memo 10 predicted -- boost recirculation is
* the fast path, battery freewheel is not.
*
* Boost-rail bump from that single event is smaller than memo 10's
* idealised +6.9 V (which explicitly ignores diode and resistive
* losses -- section 3 says so). The two diode drops plus R1's
* resistance burn a real fraction of the 32.4 mJ before it reaches
* the capacitor. Read the actual simulated numbers in the checks
* below rather than this comment -- they are not repeated here to
* avoid the two drifting apart.
*
* THE BACK-TO-BACK FINDING (claim 3, the one that changes a
* different, already-passing block): Bchg is boost_converter.cir's
* own Bchga line, copied verbatim -- it adds 50 mA while the rail is
* below 100 V and adds NOTHING above it. It has no bleed path. There
* is nothing else in this model that removes charge from the
* reservoir. So each of the three recirculation events in this
* netlist stacks its bump on top of the last one's, and by the third
* event the rail is sitting measurably above 100 V -- see the check
* output for the number. It stays there: v(rail) at the end of the
* 30 ms window (well past the 26.67 ms to the next cylinder,
* boost_converter.cir's own spacing) is unchanged from where it
* landed right after the post event, because nothing in Bchg's
* ternary can ever discharge it. This is not a flaw in this block's
* model of boost_converter.cir -- it is boost_converter.cir's own
* charge-regulation logic, run against a load (recovered turn-off
* energy) that block was never simulated against. It needs a bleed
* path (a resistor across the reservoir, or a comparator-gated
* shunt) once turn-off recirculation is added to the real design.
* boost_converter.cir's own RESULT NOTE should be revisited with
* this finding.
*
* Claim 4 (diode peak instantaneous power): checked directly against
* the average figure memo 10 section 4 computed (about 3.6 W across
* all 9 events/second) -- the check confirms the peak is two to
* three orders of magnitude above that average, which is the point:
* the average never sized this diode, the ~30-40 us pulse did.
*
* Claim 5 (EMI edge, memo 10 section 5): NOT modelled quantitatively
* here. The switches in this netlist are ideal -- zero transition
* time -- so any dV/dt read off v(lo)'s edge in this simulation
* would be an artifact of the solver's timestep, not the FET's real
* Miller-plateau-limited slew rate. Reporting a dV/dt number from
* this model would be exactly the kind of promotion-to-sourced the
* project's own discipline rules out. What IS carried over
* honestly is memo 10's own INFERRED estimate (100 V in ~36 us,
* about 2.8 V/us), restated as a comparison point against
* emi_filter.cir's differential-mode model, not as a result this
* netlist produced.
*
* Also not modelled:
*   - Diode reverse recovery (Qrr). DREC is a static diode model;
*     a real ultrafast diode's Qrr adds a brief reverse current
*     spike and ringing at the moment D_recirc stops conducting
*     that this model cannot show.
*   - The FETs' own switching transition time and Miller plateau --
*     see claim 5 above.
*   - Magnetic saturation and needle motion -- the same limits
*     injector_boost.cir's RESULT NOTE already states, inherited
*     here because the injector model is the same L/R pair.
*   - The pilot/main/post spacing (300 us) is not a sourced value
*     for this engine's calibration -- memo 10 records that no such
*     figure was found. It is chosen only to let each event's
*     recirculation finish before the next starts.
*   - The diode's thermal transient (junction temperature vs time).
*     Claim 4's peak-power check bounds the stress; it does not
*     size the part's die area or heatsink, which needs a real
*     datasheet.
* ------------------------------------------------------------
